US07642381B2
Synthesis of 3-methoxy-2-methyl aniline
2.24 g (20 mmol, 2 eq) of potassium tert-butoxide is dissolved in 60 ml of anhydrous THF and the resulting solution is cooled to −15° C. with stirring. A solution of 2.51 g (10 mmol, 1 eq) of 3-amino-6-iodo-2-methyl-2-cyclohexen-1-one in 25 ml anhydrous THF is added to the potassium tert-butoxide solution and the temperature is kept below −5° C. during addition. The cooling bath is removed after addition and the reaction is allowed to warm up to 5° C. within 1 hour. HPLC shows complete elimination. 1.20 g (9.5 mmol, 0.95 eq) of dimethyl sulfate is added to the reaction mixture with vigorous Stirring. The reaction is shown to be complete by HPLC (˜2 h). Then an HPLC weight assay indicates an 89% yield of the product. The isolation of the product was not optimized.

reactant | potassium tert-butoxide | 20 mmol, 2.24 g, 2 eq | CC(C)([O-])C.[K+]
reactant | 3-amino-6-iodo-2-methyl-2-cyclohexen-1-one | 10 mmol, 2.51 g, 1 eq | NC1=C(C(C(CC1)I)=O)C | C7H10INO
reactant | dimethyl sulfate | 9.5 mmol, 1.20 g, 0.95 eq | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-methoxy-2-methyl aniline | 89% yield | COC=1C(=C(N)C=CC1)C | C8H11NO
